US20010006973A1
2-(2,6-Dioxo(3-piperidyl))-4-ethylisoindoline-1,3-dione was prepared by the procedure of Example 1 from 3-ethylphthalic anhydride (0.860 g, 4.89 mmol), 3-aminopiperidine-2,6-dione hydrogen chloride (0.803 g, 4.88 mmol) and sodium acetate (0.420 g, 5.12 mmol) in acetic acid (10 mL). The product was a white solid (1.06 g, 76% yield); mp, 235.0-236.5° C.; 1H NMR (DMSO-d6) δ1.22 (t, J=7.4 Hz, 3H, CH3), 2.04-2.10 (m, 1H, CHH), 2.47-2.63 (m, 2H, CH2), 2.83-2.98 (m, 1H, CHH), 3.07 (q, J=7.5 Hz, 2H, CH2), 5.13 (dd, J=5.4, 12.5 Hz, 1H, NCH), 7.70-7.82 (m, 3H, Ar), 11.13 (br s, 1H, NH); 13C NMR (DMSO-d6) δ14.84, 21.95, 23.69, 30.90, 48.77, 121.09, 127.26, 131.76, 134.63, 135.39, 143.87, 166.99, 167.58, 169.85, 172.72; Anal Calcd for C15H14N2O4: C, 62.93; H, 4.93; N, 9.79. Found: C, 62.74; H, 4.84; N, 9.54.

reactant | 3-ethylphthalic anhydride | 4.89 mmol, 0.860 g | C(C)C1=C2C(C(=O)OC2=O)=CC=C1 | C10H8O3
reactant | 3-aminopiperidine-2,6-dione hydrogen chloride | 4.88 mmol, 0.803 g | Cl.NC1C(NC(CC1)=O)=O
reactant | sodium acetate | 5.12 mmol, 0.420 g | C(C)(=O)[O-].[Na+]
solvent | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
product | 2-(2,6-Dioxo(3-piperidyl))-4-ethylisoindoline-1,3-dione | O=C1NC(CCC1N1C(C2=CC=CC(=C2C1=O)CC)=O)=O | C15H14N2O4
